US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 5-methoxy-2-oxindole to give 0.3 g of 3-(3,5-Diisopropyl-4-methoxybenzylidene)-5-methoxy-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 5-methoxy-2-oxindole | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
product | 3-(3,5-Diisopropyl-4-methoxybenzylidene)-5-methoxy-1,3-dihydroindol-2-one | 0.3 g | C(C)(C)C=1C=C(C=C2C(NC3=CC=C(C=C23)OC)=O)C=C(C1OC)C(C)C | C23H27NO3
